US06235731B1
2) Synthesis of N-[1-[2-(6-hydroxy-2,5,7,8-tetramethyl-chroman-2-yl)ethyl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 1.17 g (1.78 mM) of N-[1-[2-(6-tert-butyldimethylsiloxy-2,5,7,8-tetramethylchroman-2-yl)ethyl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (5 ml) was added 5.0 ml (20 mM) of 4N—HCl/methanol and the mixture was stirred at room temperature for 90 hours. After the solvent was distilled off under reduced pressure, ethanol and diethyl ether were added and the resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound as orange-colored crystals.

reactant | N-[1-[2-(6-tert-butyldimethylsiloxy-2,5,7,8-tetramethylchroman-2-yl)ethyl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 1.78 mM, 1.17 g | O([Si](C)(C)C(C)(C)C)C=1C(=C2CCC(OC2=C(C1C)C)(C)CCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)C | C36H50N4O3SSi
reactant | HCl methanol | Cl.CO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[1-[2-(6-hydroxy-2,5,7,8-tetramethyl-chroman-2-yl)ethyl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.OC=1C(=C2CCC(OC2=C(C1C)C)(C)CCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)C | InChI=1S/C30H36N4O3S.2ClH/c1-18-19(2)28-23(20(3)27(18)35)8-11-30(4,37-28)12-15-33-13-9-21(10-14-33)32-29(36)24-16-22-17-31-25-6-5-7-26(38-24)34(22)25;;/h5-7,16-17,21,35H,8-15H2,1-4H3,(H,32,36);2*1H
